US06509329B1
Synthesis of N,N′-bis[[2-(3,4,5-Trimethoxyphenylethynyl)-pyridin-4-yl]m ethyl]homopiperazine
4-Chloromethyl-2-(3,4,5-Trimethoxyphenylethynyl)-pyridine (230 mg) and homopiperazine (32 mg) were reacted in the same manner in Example 1 to obtain the title compound as a free base.

reactant | 4-Chloromethyl-2-(3,4,5-Trimethoxyphenylethynyl)-pyridine | 230 mg | ClCC1=CC(=NC=C1)C#CC1=CC(=C(C(=C1)OC)OC)OC | C17H16ClNO3
reactant | homopiperazine | 32 mg | N1CCNCCC1 | C5H12N2
product | N,N′-bis[[2-(3,4,5-Trimethoxyphenylethynyl)-pyridin-4-yl]m ethyl]homopiperazine | COC=1C=C(C=C(C1OC)OC)C#CC1=NC=CC(=C1)CN1CCN(CCC1)CC1=CC(=NC=C1)C#CC1=CC(=C(C(=C1)OC)OC)OC | C39H42N4O6
